US06969710B2
tert-Butyl 4-[4-amino-3-(ethylamino)phenyl]-1-piperazinecarboxylate
To a solution of tert-butyl 4-[3-(ethylamino)-4-nitrophenyl]-1-piperazinecarboxylate (1.028 g, 2.93 mmol) in 40 mL EtOH:THF (4:1) solvent system was added Raney-Ni (1 mL of a EtOH suspension) followed by addition hydrazine hydrate (0.734 g, 14.67 mmol). The mixture was stirred vigorously for 3 hours and then filtered through a Celite pad pretreated with water. The filtrate was concentrated and then purified by column chromatography on silica using CHCl3/MeOH/NH3 9:1:0.4% as eluent to give 0.877 g (93%) of a red oil. The oil was used immediately in the next reaction. HPLC purity>90%; MS (posEI) m/z=320 (M+);

reactant | tert-butyl 4-[3-(ethylamino)-4-nitrophenyl]-1-piperazinecarboxylate | 2.93 mmol, 1.028 g | C(C)NC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C17H26N4O4
reactant | EtOH | 1 mL | CCO | C2H6O
reactant | hydrazine hydrate | 14.67 mmol, 0.734 g | O.NN
solvent | EtOH THF | 40 mL | CCO.C1CCOC1
catalyst | Ni | [Ni] | Ni
product | tert-Butyl 4-[4-amino-3-(ethylamino)phenyl]-1-piperazinecarboxylate | 0.877 g, 93% | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NCC | C17H28N4O2
